US08754079B2
206.3 4-[2-(trans-4-Hydroxy-cyclohexyloxy)-pyridin-3-ylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (3-dimethylamino-propyl)-amide
Prepared analogously to 1.4 from 0.083 g 4-[2-(trans-4-hydroxy-cyclohexyloxy)pyridin-3-ylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid and 26 μl N,N-dimethyl-1,3-propanediamine in THF using TBTU instead of HATU.

reactant | 4-[2-(trans-4-hydroxy-cyclohexyloxy)pyridin-3-ylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | 0.083 g | O[C@@H]1CC[C@H](CC1)OC1=NC=CC=C1NC=1C2=C(N=CN1)SC(=C2C)C(=O)O | C19H20N4O4S
reactant | N,N-dimethyl-1,3-propanediamine | 26 μl | CN(CCCN)C | C5H14N2
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | THF | C1CCOC1 | C4H8O
product | 4-[2-(trans-4-Hydroxy-cyclohexyloxy)-pyridin-3-ylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (3-dimethylamino-propyl)-amide | CN(CCCNC(=O)C1=C(C2=C(N=CN=C2NC=2C(=NC=CC2)O[C@@H]2CC[C@H](CC2)O)S1)C)C | C24H32N6O3S
